US05753682
To a solution of 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl) benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran (0.5 g, 1.3 mmol) in dry CH2Cl2 (5 ml) was added "Hydrogen Chloride; Methanol Reagent 10" (4 ml, Tokyo Chemical Industries) at ambient temperature. After stirring for 10 minutes solvent was removed under reduced pressure. The crude product was recrystallized from isopropyl alcohol (4 ml) -ethanol (3 ml) to give 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl) benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran hydrochloride (0.3 g, 55%) as white solids.

reactant | 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl) benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran | 1.3 mmol, 0.5 g | FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC1=CC=C(C=C1)N1C(=NC=C1)C | C23H25FN2O3
reactant | Hydrogen Chloride | Cl | ClH
reactant | Methanol | CO | CH4O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[5-fluoro-3-[4-(2-methylimidazol-1-yl) benzyloxy]phenyl]-4-methoxy-3,4,5,6-tetrahydro-2H-pyran hydrochloride | 0.3 g, 55% | Cl.FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC1=CC=C(C=C1)N1C(=NC=C1)C | InChI=1S/C23H25FN2O3.ClH/c1-17-25-9-10-26(17)21-5-3-18(4-6-21)16-29-22-14-19(13-20(24)15-22)23(27-2)7-11-28-12-8-23;/h3-6,9-10,13-15H,7-8,11-12,16H2,1-2H3;1H
